US08003645B2
(2B) 2-ethyl-N,N′-bis(3-hydroxyphenyl)pyrimidine-4,6-diamine
After dissolving 3-aminophenol (1.09 g, 10.0 mmol) in 2-ethoxyethanol (5.0 mL), 4,6-dichloro-2-ethylpyrimidine (0.89 g, 5.0 mmol) was added and stirring carried out for 5 hours at 130° C.

reactant | 3-aminophenol | 10.0 mmol, 1.09 g | NC=1C=C(C=CC1)O | C6H7NO
reactant | 4,6-dichloro-2-ethylpyrimidine | 5.0 mmol, 0.89 g | ClC1=NC(=NC(=C1)Cl)CC | C6H6Cl2N2
solvent | 2-ethoxyethanol | 5.0 mL | C(C)OCCO | C4H10O2
product | 2-ethyl-N,N′-bis(3-hydroxyphenyl)pyrimidine-4,6-diamine | C(C)C1=NC(=CC(=N1)NC1=CC(=CC=C1)O)NC1=CC(=CC=C1)O | C18H18N4O2
